US04405552
EXAMPLE 28: 2-CHLORO-4,6-DIMETHYL-5-PHENYL-3-PYRIDINECARBONITRILE
3-Cyano-4,6-dimethyl-5-phenyl-2-pyridone (7.0 grams) and phenylphosphonic dichloride (12.1 grams) were heated at 175°-180° C. for 2-3 hours. The solution was cooled, poured into ice water and made basic with ammonium hydroxide. A precipitate formed which was collected, air dried, and determined by NMR to be the desired product, yield 7.6 grams, m.p. 118°-123° C.

reactant | 3-Cyano-4,6-dimethyl-5-phenyl-2-pyridone | 7.0 grams | C(#N)C=1C(NC(=C(C1C)C1=CC=CC=C1)C)=O | C14H12N2O
reactant | phenylphosphonic dichloride | 12.1 grams | C1(=CC=CC=C1)P(=O)(Cl)Cl | C6H5Cl2OP
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 2-CHLORO-4,6-DIMETHYL-5-PHENYL-3-PYRIDINECARBONITRILE | ClC1=NC(=C(C(=C1C#N)C)C1=CC=CC=C1)C | C14H11ClN2
